US05491152
Part A. A solution of 2-chloroacetophenone (Aldrich, 14.1 g, 91.2 mmol), ethyl 2-mercaptoacetate (Aldrich, 10.0 mL, 91.2 mmol), and potassium carbonate (13.9 g, 100 mmol) in tetrahydrofuran (200 mL) was stirred at ambient temperature for 10 hours. The mixture was poured into water (400 mL), and extracted with methylene chloride (2×400 mL). The extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was separated by flash chromatography (1:4 ethyl acetate-hexane) to afford the product, ethyl 2-phenacylthioacetate, as an oil (16.1 g, 67.7 mmol, 74%). 1H NMR (CDCl3): δ 7.97 (2H, dd, J=8.0, 1.5 Hz); 7.62 (1H, tt, J=5.1, 1.4 Hz); 7.48 (2H, t, J=7.7 Hz); 4.19 (2H, q, J=7.3 Hz); 4.04 (2H, s); 3.33 (2H, s); 1.27 (3H, t, J=7.3 Hz). Mass spectrum (NH3 -CI/DDIP): m/z 256 (100%); 240 (6%);239 (42%); 210 (1%); 193 (1%).

reactant | 2-chloroacetophenone | 91.2 mmol, 14.1 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | ethyl 2-mercaptoacetate | 91.2 mmol, 10.0 mL | SCC(=O)OCC | C4H8O2S
reactant | potassium carbonate | 100 mmol, 13.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 mL | O | H2O
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | ethyl 2-phenacylthioacetate | C(C(=O)C1=CC=CC=C1)CC(=S)OCC | C12H14O2S
